US08877739B2
Synthesis of N5-(5-chloro-2-hydroxy-3-sulfophenyl)-L-glutamine (Compound No. 7)
Boc-Glu-OtBu (100 mg, 0.33 mmol) and HOBt monohydrate (65.6 mg, 0.43 mmol) were dissolved in 2 ml of DMF, and triethylamine (0.137 ml) was added to the solution. After cooling to 0° C., diisopropylcarbodiimide (66.4 μl, 0.43 mmol) and 2-amino-4-chlorophenol-6-sulfonic acid (73.7 mg, 0.33 mmol) were added, followed by stirring at room temperature overnight. After the solvent was removed by distillation, the mixture was purified according to the purification step A. The resulting intermediate was dissolved in 2 ml of TFA. The solution was stirred at room temperature for 2 hours, and 2 ml of methylene chloride was added thereto. The precipitate was taken out by filtration to give the title compound.

reactant | Boc-Glu-OtBu | 0.33 mmol, 100 mg | N([C@@H](CCC(O)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C14H25NO6
reactant | HOBt monohydrate | 0.43 mmol, 65.6 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | diisopropylcarbodiimide | 0.43 mmol, 66.4 μl | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 2-amino-4-chlorophenol-6-sulfonic acid | 0.33 mmol, 73.7 mg | C1=C(C=C(C(=C1S(=O)(=O)O)O)N)Cl | C6H6ClNO4S
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.137 ml | C(C)N(CC)CC | C6H15N
product | N5-(5-chloro-2-hydroxy-3-sulfophenyl)-L-glutamine | yield: 14.4% | ClC=1C=C(C(=C(C1)NC(CC[C@H](N)C(=O)O)=O)O)S(=O)(=O)O | C11H13ClN2O7S
